US07960409B2
Step 2: 7-allyl-4-phenylquinoline-2-carbonitrile
To a solution of 7-chloro-4-phenylquinoline-2-carbonitrile (3.3 g, 12.5 mmol) in dioxane (120 mL) was added tetrakistriphenylphosphine (3.6 g, 3.1 mmol) and allyltributyltin (11.5 mL, 38 mmol). The mixture was refluxed for 10 h, concentrated and purified on silica gel (eluting with dichloromethane/hexanes, 3:1) to give the title compound. MS (+ESI): 271 (M+H)+.

reactant | 7-chloro-4-phenylquinoline-2-carbonitrile | 12.5 mmol, 3.3 g | ClC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C16H9ClN2
reactant | allyltributyltin | 38 mmol, 11.5 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 7-allyl-4-phenylquinoline-2-carbonitrile | C(C=C)C1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C19H14N2
